US05866684
0.5 g (2.37 mmol) of 2-(dichloromethyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane was dissolved in 10 ml of tetrahydrofuran and the solution was cooled under a nitrogen atmosphere to -78° C. 2.4 ml (2.4 mmol) of 1M propylmagnesium bromide were added dropwise and the solution was stirred at room temperature for 18 hours. The solution was partitioned between ethyl acetate, saturated sodium chloride solution and 2M hydrochloric acid solution. The aqueous layer was extracted with ethyl acetate and the organic layers were combined and dried over anhydrous sodium sulphate. After evaporation there was obtained 0.38 g of 2-[1(RS)-chlorobutyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane as an oil which was used in the next step without further purification.

reactant | 2-(dichloromethyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.37 mmol, 0.5 g | ClC(B1OC(C(O1)(C)C)(C)C)Cl | C7H13BCl2O2
reactant | propylmagnesium bromide | 2.4 mmol, 1M, 2.4 ml | C(CC)[Mg]Br
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-[1(RS)-chlorobutyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.38 g | ClC(CCC)B1OC(C(O1)(C)C)(C)C | C10H20BClO2
